US07498337B2
N-methyl-1-{1-(pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methanamine dihydrochloride
1-(Pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde (340 mg) was dissolved in ethanol (34 mL), a 40% methylamine methanol solution (695 mg) was added at room temperature and the mixture was stirred for 30 min. Sodium borohydride (102 mg) was added at room temperature and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (10 mL) was added and the mixture was stirred for 5 min. The reaction mixture was basified with a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→7:3) and dissolved in ethyl acetate (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as pale-red crystals (yield 288 mg, 69%).

reactant | 1-(Pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | 340 mg | N1=CC(=CC=C1)S(=O)(=O)N1C=C(C=C1C1=C(C=CC=C1)C(F)(F)F)C=O | C17H11F3N2O3S
reactant | methylamine methanol | 695 mg | CO.CN
reactant | Sodium borohydride | 102 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 34 mL | C(C)O | C2H6O
product | N-methyl-1-{1-(pyridin-3-ylsulfonyl)-5-[2-(trifluoromethyl)phenyl]-1H-pyrrol-3-yl}methanamine dihydrochloride | yield 288 mg, 69% | Cl.Cl.CNCC1=CN(C(=C1)C1=C(C=CC=C1)C(F)(F)F)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C18H16F3N3O2S.2ClH/c1-22-10-13-9-17(15-6-2-3-7-16(15)18(19,20)21)24(12-13)27(25,26)14-5-4-8-23-11-14;;/h2-9,11-12,22H,10H2,1H3;2*1H
